US07163940B2
To a solution of 2-(3-bromo-4-chlorophenyl)-N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-α]pyridin-7-amine (200 mg, 0.36 mmol) in toluene (15 mL) was added 2,2′-azobisisobutyronitril (30 mg, 0.18 mmol) and tributyltin hydride (282 mg, 97 mmol). After heated at reflux for 24 hours, the reaction mixture was cooled to room temperature. Concentration followed by purification with flash chromatograph (30:70 ethyl acetate/hexanes) gave 2-(4-chlorophenyl)-N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-α]pyridin-7-amine as a white foam. 1H NMR (CDCl3): δ 8.02 (d, 1H), 7.72 (m, 1H), 7.60 (d, 2H), 7.41 (d, 2H), 7.35 (m, 1H), 6.31 (d, 1H), 6.03 (m, 2H), 5.17 (br, 1H), 4.32 (m, 1H), 4.00 (m, 1H), 2.18–2.05 (m, 4H), 1.82–1.50 (m, 12H). MS m/z 474 (M+1).

reactant | 2-(3-bromo-4-chlorophenyl)-N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-α]pyridin-7-amine | 0.36 mmol, 200 mg | BrC=1C=C(C=CC1Cl)C1=NN2C(C=CC=C2NC2CCCC2)=C1C1=NC(=NC=C1)NC1CCCC1 | C27H28BrClN6
reactant | 2,2′-azobisisobutyronitril | 0.18 mmol, 30 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | tributyltin hydride | 97 mmol, 282 mg | C(CCC)[SnH](CCCC)CCCC
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-chlorophenyl)-N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-α]pyridin-7-amine | ClC1=CC=C(C=C1)C1=NN2C(C=CC=C2NC2CCCC2)=C1C1=NC(=NC=C1)NC1CCCC1 | C27H29ClN6
